US07855214B2
(2-Chloro-1,2,5,6,7,8-hexahydro-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine (150 mg, 0.518 mmol), in methyl anthranilate (0.1 ml, 0.777 mmol) was heated to 135° C. for 4 hours to give a brown gum. This was dissolved in methanol/dichloromethane and added to a mixture of ethyl acetate and aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate and the extracts dried over magnesium sulphate and concentrated. Purification by flash chromatography on silica gel eluting with 4% methanol/dichloromethane gave a pale yellow gum. This was dissolved in 0.5M HCl in methanol and crystallised by the dropwise addition of diethyl ether to give cream coloured crystals of 5-(5-cyclopropyl-2H-pyrazol-3-ylamino)-1,2,3,4-tetrahydro-quinazolino[3,2-a]quinazolin-12-one hydrochloride (15 mg, 7%).

reactant | (2-Chloro-1,2,5,6,7,8-hexahydro-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 0.518 mmol, 150 mg | ClC1NC=2CCCCC2C(=N1)NC=1NN=C(C1)C1CC1 | C14H18ClN5
reactant | methyl anthranilate | 0.777 mmol, 0.1 ml | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | HCl | 0.5M | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-(5-cyclopropyl-2H-pyrazol-3-ylamino)-1,2,3,4-tetrahydro-quinazolino[3,2-a]quinazolin-12-one hydrochloride | 15 mg, 7% | Cl.C1(CC1)C=1C=C(NN1)NC1=NC=2N(C=3CCCCC13)C(C=1C=CC=CC1N2)=O | InChI=1S/C21H20N6O.ClH/c28-20-13-5-1-3-7-15(13)22-21-24-19(14-6-2-4-8-17(14)27(20)21)23-18-11-16(25-26-18)12-9-10-12;/h1,3,5,7,11-12H,2,4,6,8-10H2,(H2,22,23,24,25,26);1H
